US07045545B1
N-tert-butoxycarbonyl 1-(2-chloro-5-fluorobenzofur-7-yl)-2-aminopropane
Beginning with 0.29 gm (1.0 mMol) N-tert-butoxycarbonyl 1-(5-fluorobenzofur-7-yl)-2-aminopropane and 0.16 gm (1.20 mMol) N-chlorosuccinimide, 0.14 gm (43%) of the desired compound were prepared essentially as described in EXAMPLE 16.

reactant | N-tert-butoxycarbonyl 1-(5-fluorobenzofur-7-yl)-2-aminopropane | 1.0 mMol, 0.29 gm | C(C)(C)(C)OC(=O)NC(CC1=CC(=CC=2C=COC21)F)C | C16H20FNO3
reactant | N-chlorosuccinimide | 1.20 mMol, 0.16 gm | ClN1C(CCC1=O)=O | C4H4ClNO2
product | N-tert-butoxycarbonyl 1-(2-chloro-5-fluorobenzofur-7-yl)-2-aminopropane | 0.14 gm, 43% | C(C)(C)(C)OC(=O)NC(CC1=CC(=CC=2C=C(OC21)Cl)F)C | C16H19ClFNO3
